US08389511B2
(rac)-tert-Butyl [(3R,6S)-1-(4-methoxybenzyl)-6-methylpiperidin-3-yl]carbamate
To a solution of tert-butyl (6-methylpiperidin-3-yl)carbamate (8.03 g) in dimethylformamide (90 ml) were added potassium carbonate (10.4 g) and 4-methoxybenzyl chloride (5.34 ml), and the mixture was stirred at room temperature for 6 hours. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: chloroform/methanol=100/3) to give the title compound (8.87 g) as a colorless oil.

reactant | tert-butyl (6-methylpiperidin-3-yl)carbamate | 8.03 g | CC1CCC(CN1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 5.34 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Water | O | H2O
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | (rac)-tert-Butyl [(3R,6S)-1-(4-methoxybenzyl)-6-methylpiperidin-3-yl]carbamate | 8.87 g | COC1=CC=C(CN2C[C@@H](CC[C@@H]2C)NC(OC(C)(C)C)=O)C=C1 | C19H30N2O3
